US06562807B2
4-[1-(4-Cyclohexylphenyl)-3-(4-trifluoromethylsulfanylphenyl)ureidomethyl]benzoic acid methyl ester (0.53 g, 0.98 mmol) was dissolved in ethanol (96%, 11 mL) and sodium hydroxide (4 N, 1.47 mL) was added. The mixture was stirred overnight. The reaction was concentrated to dryness and added water (15 mL) and acidified with hydrochloric acid (4 N, 1.6 mL) to pH 2-3 and extracted with ethyl acetate (25 mL). The aqueous phase was extracted once more with ethyl acetate (15 mL) and the combined organic phases were washed 3 times with water (10 mL), dried over magnesium sulphate, filtered and concentrated in vacuo. Crystallisation from ethyl acetate:n-heptane gave 0.34 g of 4-[1-(4-cyclohexylphenyl)-3-(4-trifluoromethylsulfanylphenyl)ureidomethyl]benzoic acid.

reactant | 4-[1-(4-Cyclohexylphenyl)-3-(4-trifluoromethylsulfanylphenyl)ureidomethyl]benzoic acid methyl ester | 0.98 mmol, 0.53 g | COC(C1=CC=C(C=C1)C(C1=CC=C(C=C1)C1CCCCC1)NC(=O)NC1=CC=C(C=C1)SC(F)(F)F)=O | C29H29F3N2O3S
reactant | sodium hydroxide | 4 N, 1.47 mL | [OH-].[Na+]
solvent | ethanol | 11 mL | C(C)O | C2H6O
product | 4-[1-(4-cyclohexylphenyl)-3-(4-trifluoromethylsulfanylphenyl)ureidomethyl]benzoic acid | 0.34 g | C1(CCCCC1)C1=CC=C(C=C1)C(C1=CC=C(C(=O)O)C=C1)NC(=O)NC1=CC=C(C=C1)SC(F)(F)F | C28H27F3N2O3S
